.OPTIONS POST BRIEF

.OP
.LIB "/home/htj/smic40_oa/smic40ll_1125_1tm_oa_cds_1P9M_2012_10_11_v1.4/models/hspice/l0040ll_v1p4_1r.lib" tt
.TEMP 25

VDD vdd 0 DC 1.1

.TRAN 0.01n 50n UIC

.OPTIONS POST
.PRINT TRAN V(lin) V(lout)


.PARAM mos_w=330n
.PARAM mos_l=40n
.PARAM nmos_w=1200n
.PARAM nmos_l=120n
.PARAM pmos_w=1400n
.PARAM pmos_l=120n

.subckt NAND2 A B net_nand VDD GND
XP1 net_nand A VDD VDD p11ll_ckt W=mos_w L=mos_l
XP2 net_nand B VDD VDD p11ll_ckt W=mos_w L=mos_l
XN1 net_nand A net1 GND n11ll_ckt W=nmos_w L=nmos_l
XN2 net1 B GND GND n11ll_ckt W=nmos_w L=nmos_l
.ends

.subckt MUX select A B out VDD GND
XINV   select sel_n   VDD GND INV
XAND1  A select T VDD GND NAND2
XAND2  B sel_n  T VDD GND NAND2
XINV1   T OUT   VDD GND INV
.ends

.subckt INV A Y VDD GND
XP1 Y A VDD VDD p11ll_ckt W=mos_w*2 L=mos_l*2
XN1 Y A GND GND n11ll_ckt W=nmos_w*2 L=nmos_l*2
.ends


.subckt TWOMUX A0 B0 A1 B1 A2 B2 A3 B3 A4 B4 A5 B5 A6 B6 A7 B7 VDD GND OUT0 OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 
XMUX0 select A0 B0 OUT0 VDD GND MUX
XMUX1 select A1 B1 OUT1 VDD GND MUX
XMUX2 select A2 B2 OUT2 VDD GND MUX
XMUX3 select A3 B3 OUT3 VDD GND MUX
XMUX4 select A4 B4 OUT4 VDD GND MUX
XMUX5 select A5 B5 OUT5 VDD GND MUX
XMUX6 select A6 B6 OUT6 VDD GND MUX
XMUX7 select A7 B7 OUT7 VDD GND MUX
.ends


VSE1 select 0 PULSE(0 1.1 0 10p 10p 1n 2n)
VIN1 A0 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN2 B0 0 PULSE(0 1.1 5n 10p 10p 10n 20n)
VIN3 A1 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN4 B1 0 PULSE(0 1.1 0 10p 10p 10n 20n)
VIN5 A2 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN6 B2 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN7 A3 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN8 B3 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN9 A4 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN11 B4 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN22 A5 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN33 B5 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN44 A6 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN55 B6 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN66 A7 0 PULSE(0 1.1 0 10p 10p 5n 10n)
VIN77 B7 0 PULSE(0 1.1 0 10p 10p 5n 10n)

X2MUX1 A0 B0 A1 B1 A2 B2 A3 B3 A4 B4 A5 B0 A6 B6 A7 B7 VDD GND OUT0 OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 TWOMUX


.PRINT TRAN V(A0) V(B0) V(OUT0)


.end
